US05998453
500 mg (1.8 mmol) of 5-methyl-5-(3-cyclopropylmethoxy-4-methoxyphenyl)-2-oxazolidinone was first agitated with 75 mg (3.1 mmol) of sodium hydride in 17 ml of dimethylformamide for 30 minutes and, after adding 0.32 ml (2.7 mmol) of benzyl bromide,for 2 hours at room temperature. The procedure was continued analogously to Example 10, thus obtaining 348 mg of 5-methyl-5-(3-cyclopropylmethoxy-4-methoxyphenyl)-3-benzyl-2-oxazolidinone as an oil.

reactant | 5-methyl-5-(3-cyclopropylmethoxy-4-methoxyphenyl)-2-oxazolidinone | 1.8 mmol, 500 mg | CC1(CNC(O1)=O)C1=CC(=C(C=C1)OC)OCC1CC1 | C15H19NO4
reactant | sodium hydride | 3.1 mmol, 75 mg | [H-].[Na+]
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 5-methyl-5-(3-cyclopropylmethoxy-4-methoxyphenyl)-3-benzyl-2-oxazolidinone | 348 mg | CC1(CN(C(O1)=O)CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OCC1CC1 | C22H25NO4
